US09060517B2
0.50 g of 2-[(8-fluoro-2-methylquinolin-3-yloxy)pyridin-2-yl]propan-2-ol and 0.45 g of methyl iodide were dissolved in 10 ml of dimethylformamide. 64 mg of sodium hydride (60% oil suspension) were added thereto while cooling with ice followed by stirring the reaction solution for 2 hours while continuing to cool with ice. Subsequently, the reaction solution was poured in ice water followed by extraction with ethyl acetate. The extract was washed with saturated saline and dried with magnesium sulfate followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 0.15 g of 3-[2-(2-methoxy-2-propyl)pyridin-3-yloxy]-8-fluoro-2-methylquinoline.

reactant | 2-[(8-fluoro-2-methylquinolin-3-yloxy)pyridin-2-yl]propan-2-ol | 0.50 g | FC=1C=CC=C2C=C(C(=NC12)C)OC=1C(=NC=CC1)C(C)(C)O | C18H17FN2O2
reactant | methyl iodide | 0.45 g | CI | CH3I
reactant | sodium hydride | 64 mg | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(2-methoxy-2-propyl)pyridin-3-yloxy]-8-fluoro-2-methylquinoline | 0.15 g | COC(C)(C)C1=NC=CC=C1OC=1C(=NC2=C(C=CC=C2C1)F)C | C19H19FN2O2
